### PR TITLE
[Merged by Bors] - feat: port Logic.Denumerable

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Logic/Denumerable.lean [hunk 1]
```diff
@@ -0,0 +1,393 @@
...
+
+@[simp]
+theorem of_equiv_of_nat (α) {β} [Denumerable α] (e : β ≃ α) (n) :
+    @ofNat β (ofEquiv _ e) n = e.symm (ofNat α n) := by
+  -- Porting note: added `letI`
+  letI := ofEquiv _ e
+  refine ofNat_of_decode ?_
+  rw [decode_ofEquiv e]
+  simp
+#align denumerable.of_equiv_of_nat Denumerable.of_equiv_of_nat
```
Comment (jcommelin) [inline Mathlib/Logic/Denumerable.lean:114]:
```suggestion
theorem ofEquiv_ofNat (α) {β} [Denumerable α] (e : β ≃ α) (n) :
    @ofNat β (ofEquiv _ e) n = e.symm (ofNat α n) := by
  -- Porting note: added `letI`
  letI := ofEquiv _ e
  refine ofNat_of_decode ?_
  rw [decode_ofEquiv e]
  simp
#align denumerable.of_equiv_of_nat Denumerable.ofEquiv_ofNat
```

File: Mathlib/Logic/Denumerable.lean [hunk 2]
```diff
@@ -31,6 +31,7 @@ variable {α β : Type _}
 
 /-- A denumerable type is (constructively) bijective with `ℕ`. Typeclass equivalent of `α ≃ ℕ`. -/
 class Denumerable (α : Type _) extends Encodable α where
+  /-- `decode` and `encode` ar inverses. -/
```
Comment (jcommelin) [inline Mathlib/Logic/Denumerable.lean:34]:
```suggestion
  /-- `decode` and `encode` are inverses. -/
```

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
